US05672597
N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(2-furoylamino)ethylthio]acetamide
There was dissolved 1.12 g of 2-furancarboxylic acid in 50 ml of dichloromethane and added 2.06 g (0.01 mol) of DCC under cooling with ice and the mixture was stirred for 30 minutes. Thereto was added 3.65 g (0.01 mol) of N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-(2-aminoethylthio)acetamide and the mixture was stirred for 18 hours at room temperature. The precipitate was filtrated off, and the filtrate was washed with water and dried over Glauber's salt. Then the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 1.2 g of the titled compound as crystals.

reactant | 2-furancarboxylic acid | 1.12 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | DCC | 0.01 mol, 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-(2-aminoethylthio)acetamide | 0.01 mol, 3.65 g | N1(CCCCC1)CC=1C=C(OCCCNC(CSCCN)=O)C=CC1 | C19H31N3O2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(2-furoylamino)ethylthio]acetamide | 1.2 g | N1(CCCCC1)CC=1C=C(OCCCNC(CSCCNC(=O)C=2OC=CC2)=O)C=CC1 | C24H33N3O4S
